US08604034B2
7-amino-10a-(4-methoxyphenyl)-1-[(3-methyl-1,2-oxazol-4-yl)carbonyl]-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one (190 mg, 0.47 mmol) was mixed with concentrated HCl (0.4 mL) and water (0.4 mL) and the mixture cooled down at 0° C. Aqueous NaNO2 solution (49 mg, 0.70 mmol) in water (0.4 mL) was added dropwise at such rate that the temperature didn't exceed 0-5° C. The mixture was stirred at that temperature for 30 minutes. A solution of sodium azide (44 mg, 0.68 mmol) and sodium acetate (565 mg, 6.9 mmol) in water (2 mL) was then added dropwise at 0-5° C. and the mixture allowed at room temperature and stirred overnight. The mixture was then extracted with EtOAc (4×10 mL). The combined organic layers were washed with brine, dried (Na2SO4), filtrated and concentrated in vacuo to give a residue that was purified by flash chromatography (Biotage SP4, gradient EtOAc 5 CV, 0%-10% MeOH in EtOAc 9 CV, hold 10% 3 CV and 10-30% 3 CV) to give 7-azido-10a-(4-methoxyphenyl)-1-[(3-methyl-1,2-oxazol-4-yl)carbonyl]-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one (57 mg, yield: 28%).

reactant | 7-amino-10a-(4-methoxyphenyl)-1-[(3-methyl-1,2-oxazol-4-yl)carbonyl]-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 0.47 mmol, 190 mg | NC=1C=C2N(CC3(N(C2=O)CCN3C(=O)C=3C(=NOC3)C)C3=CC=C(C=C3)OC)C1 | C21H21N5O4
reactant | HCl | 0.4 mL | Cl | ClH
reactant | NaNO2 | 0.70 mmol, 49 mg | N(=O)[O-].[Na+]
reactant | sodium azide | 0.68 mmol, 44 mg | [N-]=[N+]=[N-].[Na+]
reactant | sodium acetate | 6.9 mmol, 565 mg | C(C)(=O)[O-].[Na+]
solvent | water | 0.4 mL | O | H2O
solvent | water | 2 mL | O | H2O
solvent | water | 0.4 mL | O | H2O
product | 7-azido-10a-(4-methoxyphenyl)-1-[(3-methyl-1,2-oxazol-4-yl)carbonyl]-2,3,10,10a-tetrahydro-1H,5H-imidazo[1,2-a]pyrrolo[1,2-d]pyrazin-5-one | 57 mg, yield: 28% | N(=[N+]=[N-])C=1C=C2N(CC3(N(C2=O)CCN3C(=O)C=3C(=NOC3)C)C3=CC=C(C=C3)OC)C1 | C21H19N7O4
